US05059609
6-Benzyloxy-3-(3-(methoxycarbonyl)phenoxy)-4-chromanone
By the method of Example 72, 6-benzyloxy-3-bromo-4-chromanone (49.9 g, 0.15 mol) and methyl 3-hydroxybenzoate (22.8 g, 0.15 mol) were converted to present title product purified by chromatography on silica gel using CH2Cl2 as eluant, 2.19 g; tlc Rf 0.22 (CH2Cl2).

reactant | 6-benzyloxy-3-bromo-4-chromanone | 0.15 mol, 49.9 g | C(C1=CC=CC=C1)OC=1C=C2C(C(COC2=CC1)Br)=O | C16H13BrO3
reactant | methyl 3-hydroxybenzoate | 0.15 mol, 22.8 g | OC=1C=C(C(=O)OC)C=CC1 | C8H8O3
product | 6-Benzyloxy-3-(3-(methoxycarbonyl)phenoxy)-4-chromanone | C(C1=CC=CC=C1)OC=1C=C2C(C(COC2=CC1)OC1=CC(=CC=C1)C(=O)OC)=O | C24H20O6
